US05068231
N-(2-Methylpropyl)-3-[4-(trifluoromethyl)phenoxy]-1 azetidinecarboxamide
A stirred solution of 3.6 g (0.022 mole) of 1,1-carbonyldiimidazole in 100 ml of methylene chloride under nitrogen was treated with 1.6 g (0.022 mole) of 2-methylpropylamine (added via a syringe and needle through a septum placed in one neck of the reaction flask). After stirring for 1 hr, 6.2 g (0.02 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate was added all at once followed in 30 min with 5 ml of triethylamine and stirring was continued for 18 hr. The reaction mixture was washed with water (2×25 ml), dried over magnesium sulfate, and concentrated in vacuo. The solid residue was crystallized from ethanol/water, yielding 5.4 g (85.4%) of pale yellow crystals.

reactant | 2-methylpropylamine | 0.022 mole, 1.6 g | CC(CN)C | C4H11N
reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C1=CC=C(OC2CNC2)C=C1)(F)F
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Methylpropyl)-3-[4-(trifluoromethyl)phenoxy]-1 azetidinecarboxamide | 5.4 g, 85.4% | CC(CNC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F)C | C15H19F3N2O2
